US06048866
The 2-chloro-4-(4-methylphenylsulphanyl)pyrimidine was prepared in a similar manner to the analogous starting material of Example 1, from p-thiocresol (838 mg, 6.71 mmol), 2,4-dichloropyrimidine (1.0 g, 6.71 mmol) and sodium hydride [60% dispersion in oil] (295 mg, 7.4 mmol), m.p. 80-81°. δH (CDCl3) 8.15 (1H, d, J 5.4 Hz), 7.46 (2H, d, J 8.0 Hz), 7.30 (2H, d, J 8.0 Hz), 6.59 (1H, d, J 5.4 Hz) and 2.43 (3H, s).

reactant | p-thiocresol | 6.71 mmol, 838 mg | CC1=CC=C(C=C1)S | C7H8S
reactant | 2,4-dichloropyrimidine | 6.71 mmol, 1.0 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | sodium hydride | 7.4 mmol, 295 mg | [H-].[Na+]
product | 2-chloro-4-(4-methylphenylsulphanyl)pyrimidine | ClC1=NC=CC(=N1)SC1=CC=C(C=C1)C | C11H9ClN2S
